US08664401B2
Step B) (2R)-4-[4-(4-chloro-2-fluorophenyl)-2-oxopyridin-1(2H)-yl]-N-hydroxy-2-methyl-2-(methylsulfonyl)butanamide
(2R)-4-[4-(4-chloro-2-fluorophenyl)-2-oxopyridin-1(2H)-yl]-2-methyl-2-(methylsulfonyl)-N-(tetrahydro-2H-pyran-2-yloxy)butanamide (1188 mg impure material, 1 mmol) was dissolved in 3 mL of dichloromethane. To this solution was added 1 mL of 4M HCl in dioxane and 1 mL of water. The reaction was monitored for completion by LCMS. Upon completion, the reaction mixture was concentrated and redissolved in a minimal amount of dimethylsulfoxide and water and loaded onto a 5 g c18 guard-column. This material was purified on a 75 g c18 column with 10-40% acetonitrile in water with 0.1% trifluoroacetic acid. The desired material was concentrated yielding 434 mg (88%) of a light yellow solid. LCMS m/z 417.5 (M+1). 1H NMR (400 MHz, DMSO-d6) δ ppm 1.58 (s, 3H) 2.10-2.23 (m, 1H) 2.37-2.47 (m, 1H) 3.11 (s, 3H) 3.69-3.82 (m, 1H) 4.04-4.19 (m, 1H) 6.44-6.52 (m, 1H) 6.58 (s, 1H) 7.42 (dd, J=8.29, 1.85 Hz, 1H) 7.56-7.67 (m, 2H) 7.77 (d, J=7.02 Hz, 1H) 11.12 (br. s., 1H)

reactant | (2R)-4-[4-(4-chloro-2-fluorophenyl)-2-oxopyridin-1(2H)-yl]-2-methyl-2-(methylsulfonyl)-N-(tetrahydro-2H-pyran-2-yloxy)butanamide | 1 mmol, 1188 mg | ClC1=CC(=C(C=C1)C1=CC(N(C=C1)CC[C@](C(=O)NOC1OCCCC1)(S(=O)(=O)C)C)=O)F | C22H26ClFN2O6S
reactant | HCl | 4M, 1 mL | Cl | ClH
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | water | 1 mL | O | H2O
product | (2R)-4-[4-(4-chloro-2-fluorophenyl)-2-oxopyridin-1(2H)-yl]-N-hydroxy-2-methyl-2-(methylsulfonyl)butanamide | 434 mg, 88% | ClC1=CC(=C(C=C1)C1=CC(N(C=C1)CC[C@](C(=O)NO)(S(=O)(=O)C)C)=O)F | C17H18ClFN2O5S
